US09422271B2
A mixture of 5-bromothiophene-2-sulfonyl chloride (1 g, 3.82 mmol) and 2-methoxyethanamine (0.43 g, 5.73 mmol, 1.5 eq) in 1,4-dioxane (20 mL) was stirred at r.t. for 2.5 h. The mixture was evaporated under reduced pressure. The residue was purified by column chromatography (PE100%-EtOAc100%) to afford 5-bromo-N-(2-methoxyethyl)thiophene-2-sulfonamide (1 g, 87%). LC-MS (m/z)=301 [M+H]+.

reactant | 5-bromothiophene-2-sulfonyl chloride | 3.82 mmol, 1 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | 2-methoxyethanamine | 5.73 mmol, 0.43 g, 1.5 eq | COCCN | C3H9NO
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-bromo-N-(2-methoxyethyl)thiophene-2-sulfonamide | 1 g, 87% | BrC1=CC=C(S1)S(=O)(=O)NCCOC | C7H10BrNO3S2
